US06660744B1
To a solution of 4-bromo-2-fluoroaniline (1.00 g, 5.26 mmol) in toluene (25 mL) was added 2-chlorobenzoxazole (0.66 mL, 5.79 mmol). The purple solution was heated at reflux for 30 min and then at 100° C. for 17 h. The resulting white suspension/purple solution was cooled to room temperature and the precipitate was filtered. The filter cake was washed with five 2-mL portions of heptane to afford N2-(4-bromo-2-fluorophenyl)-1,3-benzoxazol-2-amine (1.480 g, 92%) as a light purple powder. RP-HPLC (25 to 100% CH3CN in 0.1 N aqueous ammonium acetate over 10 min at 1 mL/min using a Hypersil HS C18, 250×4.6 mm column) tr=12.87 min, 97%; m/z 307 (MH+).

reactant | 4-bromo-2-fluoroaniline | 5.26 mmol, 1.00 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | 2-chlorobenzoxazole | 5.79 mmol, 0.66 mL | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | N2-(4-bromo-2-fluorophenyl)-1,3-benzoxazol-2-amine | 1.480 g, 92% | BrC1=CC(=C(C=C1)NC=1OC2=C(N1)C=CC=C2)F | C13H8BrFN2O
